US04546101
(4-benzhydryloxycarbonyl-7-amino-3-cephem-3-ylmethyl)triphenylphosphonium iodide hydrochloride (5 g) was dissolved in a mixed solution of tetrahydrofuran (35 ml) and 35 ml of aqueous sodium bicarbonate (1.6 g). To the solution was added a solution of 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyimino acetylchloride hydrochloride (syn isomer) (2.6 g) in tetrahydrofuran at -3° C. to 3° C., and the solution was stirred for 30 minutes under keeping the pH 6.5 to 7.5 with 20% aqueous potassium carbonate. Ethyl acetate was added to the reaction mixture and the mixture was adjusted to pH 10.0 with 20% aqueous potassium carbonate. The separated organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated to give benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-(triphenylphosphoranediylmethyl)-3-cephem-4-carboxylate (syn isomer) (4.5 g).

reactant | (4-benzhydryloxycarbonyl-7-amino-3-cephem-3-ylmethyl)triphenylphosphonium iodide hydrochloride | 5 g | Cl.[I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | sodium bicarbonate | 35 ml, 1.6 g | C([O-])(O)=O.[Na+]
reactant | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyimino acetylchloride hydrochloride | 2.6 g | Cl.NC1=NC(=NS1)C(C(=O)Cl)=NOCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-(triphenylphosphoranediylmethyl)-3-cephem-4-carboxylate | 4.5 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC | C45H39N6O5PS2
